US08877975B2
5.1.4. Preparation of 1-(naphthalen-2-yl)-4-oxocyclohexanecarbonitrile
A 12-L, four-neck flask equipped with a temperature probe, reflux condenser and overhead stirrer was charged with methyl 5-cyano-5-(naphthalen-2-yl)-2-oxocyclohexanecarboxylate (600 g, 1.9 mol), brine (1 L) and DMSO (6 L). The mixture was heated to 135° C. and stirred for 12 h. The progress of the reaction was monitored by TLC (2:3 EtOAc/Heptane). After 12 h, the reaction mixture was cooled to room temperature, diluted with water (6 L) and extracted twice with MTBE (5 L, 3 L). The combined organic phases were washed with brine (4×3 L), dried over MgSO4 and filtered. The filtrate was concentrated under reduced pressure at 40-45° C. to give a residue which was triturated with heptane/MTBE (1:1, 2 L). The resulting slurry was stirred for 2 h, filtered and dried under high vacuum for 12 h to yield the title compound (301 g, 62%) as an off-white solid. 1H NMR (DMSO-d6, 300 MHz): 6 8.1 (s, 1H), 8.0-7.9 (m, 4H), 7.8 (dd, 1H), 7.6 (m, 2H), 7.3 (dd, 1H), 7.2 (m, 1H), 3.1 (s, 1H), 2.8 (m, 2H), 2.2-2.6 (m, 8H), 1.2(s, 2H).

reactant | methyl 5-cyano-5-(naphthalen-2-yl)-2-oxocyclohexanecarboxylate | 1.9 mol, 600 g | C(#N)C1(CCC(C(C1)C(=O)OC)=O)C1=CC2=CC=CC=C2C=C1 | C19H17NO3
reactant | DMSO | 6 L | CS(=O)C | C2H6OS
reactant | EtOAc Heptane | CCOC(=O)C.CCCCCCC
solvent | brine | 1 L | [Cl-].[Na+].O
solvent | water | 6 L | O | H2O
product | 1-(naphthalen-2-yl)-4-oxocyclohexanecarbonitrile | 301 g, 62% | C1=C(C=CC2=CC=CC=C12)C1(CCC(CC1)=O)C#N | C17H15NO
